US07297795B2
A suspension of 3-(3-chloropropoxy)-4-methoxyanilino-N-(2,4-dichloro-5-methoxyphenyl)-2-cyano-2-propenamide (462 mg, 0.95 mmol) in 40 mL of acetonitrile was heated to reflux and phosphorous oxychloride (0.60 mL) was added dropwise, via syringe. The reaction mixture was heated at reflux overnight, then cooled to room temperature and concentrated in vacuo. The residue was cooled to 0° C. and saturated aqueous sodium bicarbonate was added. The mixture was stirred for 10 minutes and the solid was collected by filtration, washed with water. The solid was suspended in hot ethyl acetate and methanol and then filtered to provide 200 mg of 7-(3-chloropropoxy)-4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-methoxy-3-quinolinecarbonitrile as a pale yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 2.30 (m, 2H), 3.84 (t, J=6 Hz, 1H), 3.88 (s, 3H), 4.01 (s, 3H), 4.32 (t, J=6 Hz, 2H), 7.46 (s, 1H), 7.51 (s, 1H), 7.81 (s, 1H), 8.14 (s, 1H), 8.81 (s, 1H), 10.83 (br s, 1H), MS (ES) m/z 466.1, 468.1 (M+H)+.

reactant | 3-(3-chloropropoxy)-4-methoxyanilino-N-(2,4-dichloro-5-methoxyphenyl)-2-cyano-2-propenamide | 0.95 mmol, 462 mg | ClCCCOC=1C=C(NC=C(C(=O)NC2=C(C=C(C(=C2)OC)Cl)Cl)C#N)C=CC1OC | C21H20Cl3N3O4
reactant | phosphorous oxychloride | 0.60 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 7-(3-chloropropoxy)-4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-methoxy-3-quinolinecarbonitrile | 200 mg | ClCCCOC1=C(C=C2C(=C(C=NC2=C1)C#N)NC1=C(C=C(C(=C1)OC)Cl)Cl)OC | C21H18Cl3N3O3
